US09212348B2
Synthesis of t-butyl 2-(2-methyl-1-p-tolylpropan-2-yl)hydrazinecarboxylate
2.40 g (14.7 mmol) of separately prepared 2-methyl-1-p-tolylpropan-2-amine was dissolved in 20 mL of methylene chloride, and 2.60 g (10.0 mmol) of separately prepared t-butyl 3-(trichloromethyl)-1,2-oxaziridine-2-carboxylate in 10 mL of methylene chloride was added under cooling with ice. The reaction solution was stirred under cooling with ice for 30 minutes and at room temperature for 1 hour, and the methylene chloride was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography using hexane-ethyl acetate (100:0 to 0:100) as the eluent to give 1.61 g of the desired product as colorless crystals.

reactant | 2-methyl-1-p-tolylpropan-2-amine | CC(CC1=CC=C(C=C1)C)(C)N | C11H17N
reactant | t-butyl 3-(trichloromethyl)-1,2-oxaziridine-2-carboxylate | ClC(C1N(O1)C(=O)OC(C)(C)C)(Cl)Cl | C7H10Cl3NO3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | t-butyl 2-(2-methyl-1-p-tolylpropan-2-yl)hydrazinecarboxylate | 1.61 g | CC(CC1=CC=C(C=C1)C)(C)NNC(=O)OC(C)(C)C | C16H26N2O2
